US05405851
A suspension of 3-amino-9-bromobenzo[f]quinazolin-1(2H)-one (0.99 g, 3.4 mmol) in pivalic anhydride (10 ml) was heated to reflux. The resulting solution was stirred at this temperature for 10 minutes and then concentrated in vacuo. The solid was resuspended in triethylamine: acetonitrile (1:3, 80 ml) and triphenyl phosphine (0.53 g, 2.0 mmol), trimethylsilylacetylene (3.0 ml, 21 mmol) (Aldrich), and Pd (OAc)2 (0.23 g, 1.0 mmol) were added and the reaction mixture was stirred for 25 hours at 65° C. After cooling, the resulting solid was filtered and washed with diethyl ether to give crude product (0.84 g). This was combined with material (0.83 g) from a similar reaction and purified by chromatography on silica gel eluting with ethyl acetatemethylene chloride (1:99) to give N-(1,2-dihydro-1-oxo-9-(trimethylsilylethynyl)benzo[f]quinazolin-3-yl) pivalamide (0.25 g). 1H NMR (DMSO-d6, 200 MHz) δ: 0.28 (s, 9H, Si(CH3)3), 1.27 (s, 9H, t-butyl), 7.56 (d, J=9 Hz, 1H, Ar), 7.60 (dd, J=8,1 Hz, 1H, Ar), 8.00 (d, J=8 Hz, 1H, Ar), 8.22 (d, J=9 Hz, 1H, Ar), 9.81 (s, 1H, Ar), 11.27 (br s, 1H, N2H), 12.44 (br s, 1H, C3 --NH). Anal. Calculated for C22H25N3O2Si: C, 67.49; H, 6.44; N, 10.73. Found: C, 67.35; H, 6.48; N, 10.65.

reactant | 3-amino-9-bromobenzo[f]quinazolin-1(2H)-one | 3.4 mmol, 0.99 g | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)Br | C12H8BrN3O
reactant | triphenyl phosphine | 2.0 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylacetylene | 21 mmol, 3.0 ml | C[Si](C)(C)C#C | C5H10Si
reactant | pivalic anhydride | 10 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | N-(1,2-dihydro-1-oxo-9-(trimethylsilylethynyl)benzo[f]quinazolin-3-yl) pivalamide | 0.25 g | O=C1NC(=NC=2C=CC3=C(C12)C=C(C=C3)C#C[Si](C)(C)C)NC(C(C)(C)C)=O | C22H25N3O2Si
